US05023261
In dry N,N-dimethylformamide was dissolved 500 mg of 3,9-dihydroxy-5H-benzofuro[3,2-c]quinolin-6-one. To the solution were added successively 1.3 ml of triethylamine, 0.72 ml of methylsulfonyl chloride and 10 mg of -dimethylaminopyridine, and the mixture was stirred overnight at room temperature. The reaction mixture was diluted with water, and the precipitates were collected by filtration, washed with water and ether, and dried to obtain 725 mg of 3,9-bis(methylsulfonyloxy)-5H-benzofuro[3,2-c]quinolin-6-one.

reactant | 3,9-dihydroxy-5H-benzofuro[3,2-c]quinolin-6-one | 500 mg | OC1=CC=C2C3=C(C(NC2=C1)=O)C1=C(O3)C=C(C=C1)O | C15H9NO4
reactant | triethylamine | 1.3 ml | C(C)N(CC)CC | C6H15N
reactant | methylsulfonyl chloride | 0.72 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3,9-bis(methylsulfonyloxy)-5H-benzofuro[3,2-c]quinolin-6-one | 725 mg | CS(=O)(=O)OC1=CC=C2C3=C(C(NC2=C1)=O)C1=C(O3)C=C(C=C1)OS(=O)(=O)C | C17H13NO8S2
